US08232409B2
F. 3-[5-(2-Fluoro-phenyl)-1H-benzimidazol-2-yl]-1,8-dioxa-2-aza-spiro[4.5]dec-2-ene hydrochloride
A solution of 3-[5-(2-fluoro-phenyl)-1H-benzimidazol-2-yl]-1,8-dioxa-2-aza-spiro[4.5]dec-2-ene (98.8 mg, 0.281 mmol, as prepared in the previous step) in EtOH (5 mL) was treated with HCl (56.2 μL, 0.281 mmol, 5 M in isopropanol) at rt for 2 h. The mixture was concentrated in vacuo and the residue was dissolved in a minimum amount of EtOH (2.5 mL) with sonication and heating. The solution was cooled to rt, and hexanes were added dropwise until the solution became cloudy. The solution was allowed to sit for 2 min then was treated with additional hexanes. The resulting precipitate was filtered, washed with hexanes, and air-dried to afford the title compound (63.7 mg, 58%) as a white solid. 1H-NMR (400 MHz, d4-MeOH) δ: 7.85 (s, 1H), 7.77-7.83 (m, 1H), 7.70-7.77 (m, 1H), 7.46-7.53 (m, 1H), 7.32-7.41 (m, 1H), 7.21-7.27 (m, 1H), 7.13-7.21 (m, 1H), 3.78-3.88 (m, 2H), 3.63-3.73 (m, 2H), 3.32-3.36 (m, 2H), 1.85-1.98 (m, 4H). Mass Spectrum (LCMS, APCI pos.): Calcd. for C20H18FN3O2: 352.1 (M+H). found: 352.3.

reactant | 3-[5-(2-fluoro-phenyl)-1H-benzimidazol-2-yl]-1,8-dioxa-2-aza-spiro[4.5]dec-2-ene | FC1=C(C=CC=C1)C1=CC2=C(NC(=N2)C2=NOC3(C2)CCOCC3)C=C1 | C20H18FN3O2
reactant | HCl | 0.281 mmol, 5 M, 56.2 μL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-[5-(2-Fluoro-phenyl)-1H-benzimidazol-2-yl]-1,8-dioxa-2-aza-spiro[4.5]dec-2-ene hydrochloride | 63.7 mg, 58% | Cl.FC1=C(C=CC=C1)C1=CC2=C(NC(=N2)C2=NOC3(C2)CCOCC3)C=C1 | InChI=1S/C20H18FN3O2.ClH/c21-15-4-2-1-3-14(15)13-5-6-16-17(11-13)23-19(22-16)18-12-20(26-24-18)7-9-25-10-8-20;/h1-6,11H,7-10,12H2,(H,22,23);1H
